US05403816
4.0 g (12 mmol) of 6-(N,N-dimethylamino)-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinic acid and 3.0 g (19 mmol) of carbonyl diimidazole were added to 30 ml of THF, and the mixture was stirred at room temperature for 4 hours. Then, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and dried. The solvent was distilled off, and the residual oily product was crystallized from diisopropyl ether to obtain 4.0 g (yield: 87%) of 6-(N,N-dimethylamino)-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinoylimidazole as a reaction intermediate. 1 g (2.7 mmol) of this intermediate, 0.3 g (3.7 mmol) of N-methoxy-N-methylamine hydrochloride and 0.8 g (7.5 mmol) of sodium carbonate were added to 50 ml of acetone, and the mixture was stirred at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water, dried and concentrated. Then, the residual oily product was crystallized from diisopropyl ether to obtain the desired product as colorless prism crystals.

reactant | 6-(N,N-dimethylamino)-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinic acid | 12 mmol, 4.0 g | CN(C)C1=CC=C(C(=N1)C(=O)O)OC1=NC(=CC(=N1)OC)OC | C14H16N4O5
reactant | carbonyl diimidazole | 19 mmol, 3.0 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-(N,N-dimethylamino)-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinoylimidazole | 4.0 g, yield: 87% | CN(C)C1=CC=C(C(=N1)C(=O)C=1NC=CN1)OC1=NC(=CC(=N1)OC)OC | C17H18N6O4
